US04508716
4 g of 7-methyl-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine 4-oxide (prepared analogously to Example 5A-C) are dissolved in 10 ml of n-butylamine and the solution is heated to 90° C. in an autoclave for 14 hours. After the reaction mixture has been worked up, the resulting crude product is purified by chromatography on aluminium oxide of activity level II, using methylene chloride/chloroform, and is crystallised from ether. 2.1 g of 1,2,3,4,4a,5-hexahydro-3-(n-butyl)-9-methyl-7-(2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine 6-oxide are obtained. Melting point: 104° to 106° C.

reactant | 7-methyl-1-(β-chloroethyl)-2-chloromethyl-5-(2-furyl)-2,3-dihydro-1H-1,4-benzodiazepine 4-oxide | 4 g | CC=1C=CC2=C(C(=[N+](CC(N2CCCl)CCl)[O-])C=2OC=CC2)C1 | C17H18Cl2N2O2
solvent | n-butylamine | 10 ml | C(CCC)N | C4H11N
product | 1,2,3,4,4a,5-hexahydro-3-(n-butyl)-9-methyl-7-(2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine 6-oxide | 2.1 g | C(CCC)N1CC2N(C3=C(C(=[N+](C2)[O-])C=2OC=CC2)C=C(C=C3)C)CC1 | C21H27N3O2
